US08106083B2
The benzylether [4-(1-(2-aminoethyl)-1H-indol-5-yl)-5-(2,4-bis(benzyloxy)-5-isopropylphenyl)-4H-1,2,4-triazol-3-ol; 188 mg, 0.33 mmol) was dissolved in 6 ml degassed THF/methanol (1:1). 50 mg Pd/C (10%) was added and the mixture stirred under hydrogen (balloon) at rt for 5 h. After filtration the solvent was removed and the crude purified by chromatography on silica with DCM/MeOH (5-20%)/NH4OH (0.5%) to yield 71 mg (0.18 mmol) 4-(5-hydroxy-4-(1-(2-(methylamino)ethyl)-1H-indol-5-yl)-4H-1,2,4-triazol-3-yl)-6-isopropylbenzene-1,3-diol. This amine (50 mg, 0.125) was added to 4-(2,5-dioxopyrrolidin-1-yl)butanoic acid (26 mg, 0.14 mmol), EDC (38 mg, 0.2 mmol) and HOBt (27 mg, 0.2 mmol) in 1.5 ml DMF at rt. The mixture was stirred for 12 h and then ethyl acetate and water added. The aq. Phase was extracted twice with ethyl acetate and the combined organic extracts washed with brine and dried over MgSO4. The crude was purified by chromatography on silica with DCM/MeOH (3-10%) to yield 34 mg (0.061 mmol) product.

reactant | benzylether | C(C1=CC=CC=C1)OCC1=CC=CC=C1 | C14H14O
reactant | 4-(1-(2-aminoethyl)-1H-indol-5-yl)-5-(2,4-bis(benzyloxy)-5-isopropylphenyl)-4H-1,2,4-triazol-3-ol | NCCN1C=CC2=CC(=CC=C12)N1C(=NN=C1C1=C(C=C(C(=C1)C(C)C)OCC1=CC=CC=C1)OCC1=CC=CC=C1)O | C35H35N5O3
product | 4-(5-hydroxy-4-(1-(2-(methylamino)ethyl)-1H-indol-5-yl)-4H-1,2,4-triazol-3-yl)-6-isopropylbenzene-1,3-diol | 0.18 mmol, 71 mg | OC=1N(C(=NN1)C1=C(C=C(C(=C1)C(C)C)O)O)C=1C=C2C=CN(C2=CC1)CCNC | C22H25N5O3
